### PR TITLE
[Merged by Bors] - feat(Data/List/Chain): chain'_iff_forall_rel_of_append_cons_cons

### PR DESCRIPTION
**Pull request by b-reinke**
Upstreamed from the [EquationalTheories](https://github.com/teorth/equational_theories) project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Chain.lean [hunk 1]
```diff
@@ -194,6 +194,26 @@ theorem chain'_append_cons_cons {b c : α} {l₁ l₂ : List α} :
     Chain' R (l₁ ++ b :: c :: l₂) ↔ Chain' R (l₁ ++ [b]) ∧ R b c ∧ Chain' R (c :: l₂) := by
   rw [chain'_split, chain'_cons]
 
+theorem chain'_iff_all_append_cons_cons {l : List α} : Chain' R l ↔
+∀ {a b} {l₁ l₂}, l = l₁ ++ (a :: b :: l₂) → R a b := by
```
Comment (Paul-Lez) [inline Mathlib/Data/List/Chain.lean:198]:
```suggestion
    ∀ {a b} {l₁ l₂}, l = l₁ ++ (a :: b :: l₂) → R a b := by
```

File: Mathlib/Data/List/Chain.lean [hunk 2]
```diff
@@ -194,6 +194,26 @@ theorem chain'_append_cons_cons {b c : α} {l₁ l₂ : List α} :
...
+    | nil => exact chain'_singleton head
+    | cons head' tail =>
+      rw [chain'_cons]
+      constructor
+      · apply h (nil_append _).symm
+      · apply ih
+        intro a b l₁ l₂ eq
+        apply h (l₁ := head :: l₁) (l₂ := l₂)
+        rw [eq]
+        simp
```
Comment (Paul-Lez) [inline Mathlib/Data/List/Chain.lean:215]: Here's a slightly golfed version of the proof.
```suggestion
  refine ⟨fun h _ _ _ _ eq => (chain'_append_cons_cons.mp (eq ▸ h)).2.1, ?_⟩
  induction l with
  | nil => exact fun _ ↦ chain'_nil
  | cons head tail ih =>
    match tail with
    | nil => exact fun _ ↦ chain'_singleton head
    | cons head' tail =>
      refine fun h ↦ chain'_cons.mpr ⟨h (nil_append _).symm, ih @(fun a b l₁ l₂ eq => ?_)⟩
      simpa [eq] using @h (l₁ := head :: l₁) (l₂ := l₂)
```

File: Mathlib/Data/List/Chain.lean [hunk 3]
```diff
@@ -194,6 +194,26 @@ theorem chain'_append_cons_cons {b c : α} {l₁ l₂ : List α} :
     Chain' R (l₁ ++ b :: c :: l₂) ↔ Chain' R (l₁ ++ [b]) ∧ R b c ∧ Chain' R (c :: l₂) := by
   rw [chain'_split, chain'_cons]
 
+theorem chain'_iff_all_append_cons_cons {l : List α} : Chain' R l ↔
```
Comment (Paul-Lez) [inline Mathlib/Data/List/Chain.lean:197]: I think "forall" is used more often than "all" to denote `∀` in theorem names. 

One possible name would be `chain'_iff_forall_rel_of_append_cons_cons` - maybe @YaelDillies has suggestions for a better name?

File: Mathlib/Data/List/Chain.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Data/List/Chain.lean:198]: or even
```suggestion
    ∀ {a b} {l₁ l₂}, l = l₁ ++ a :: b :: l₂ → R a b := by
```

File: Mathlib/Data/List/Chain.lean [hunk 4]
```diff
@@ -194,6 +194,26 @@ theorem chain'_append_cons_cons {b c : α} {l₁ l₂ : List α} :
...
+∀ {a b} {l₁ l₂}, l = l₁ ++ (a :: b :: l₂) → R a b := by
+  constructor
+  · exact fun h _ _ _ _ eq => (chain'_append_cons_cons.mp (eq ▸ h)).2.1
```
Comment (YaelDillies) [inline Mathlib/Data/List/Chain.lean:200]: Hint:
```suggestion
∀ {a b} {l₁ l₂}, l = l₁ ++ (a :: b :: l₂) → R a b where
  mp h _ _ _ _ eq := (chain'_append_cons_cons.mp (eq ▸ h)).2.1
```

File: Mathlib/Data/List/Chain.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/List/Chain.lean:197]: I think this is a hard one to name, but your name is better than the current one, yes

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by YaelDillies** [comment]
PS: Don't forget to update the PR title

**Review by jcommelin — COMMENTED** [review]
bors d+
